datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:21]([C:20]([H:24])([H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:13])[H:12])([H:10])[H:11],9.45584
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](#[C:19][C:20]([H:22])[H:23])[H:21]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:20]([C:19]#[C:18][H:21])([H:22])[H:23])[H:10],37.0702
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[O:7][O:8][H:9]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:7][O:8][H:9],49.8733
[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[O:8][N:9]=[O:10]>>[C:0]([C:1](=[O:2])[H:7])([H:3])([H:4])[H:5].[H:6][O:8][N:9]=[O:10],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:15])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],64.49636
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([c:24]1[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]1[H:36])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:23]([c:24]1[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]1[H:36])([H:30])[H:31])[H:13])([H:11])[H:12],37.5723
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:8])([H:9])[H:10],70.7096
[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7])([H:4])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])[H:7])([H:4])[H:5].[H:6][C:11]([H:12])([H:13])[H:14],0.0
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][H:14],8.368
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7](=[C:8]([H:10])[H:11])[H:9],-6.276
[C:0]1([H:5])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])=[C:4]1[H:9].[C:10]1([H:15])[C:11]([H:16])=[C:12]([H:17])[C:13]([H:18])=[C:14]1[H:19]>>[C:0]1([H:5])([C:10]2([H:15])[C:11]([H:16])=[C:12]([H:17])[C:13]([H:18])=[C:14]2[H:19])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])=[C:4]1[H:9],0.0
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[C:13]([C:14]([C:15]([C:16]([C:17]([C:18]([C:19]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])([H:5])[C:13]([C:14]([C:15]([C:16]([C:17]([C:18]([C:19]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21],0.0
[C:0]1([H:5])[C:1]([H:6])([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]1([H:10])[H:11]>>[C:0]1([H:5])=[C:1]([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]1([H:10])[H:11].[H:6],133.4696
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])([H:21])([H:22])[H:23]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([C:18]([H:21])([H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24],18.828
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8][C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:8](=[C:7]([H:11])[H:12])[C:9](=[C:10]([H:14])[H:15])[H:13])([H:3])[H:4],30.9616
[C:0]([C:1]([C:2]([C:3]([O:4][H:15])([H:13])[H:14])([H:11])[H:12])([O:5][O:6])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:15])[H:14])([H:11])[H:12])([O:5][O:6][H:13])[H:10])([H:7])([H:8])[H:9],64.3499
[H:15][H:16].[S:0]([C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8]>>[H:15].[S:0]([C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:9])[H:16])[H:8],91.0438
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([C:9](=[C:10]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]=[C:6]([H:11])[H:12])([C:9](=[C:10]([H:15])[H:16])[H:14])[H:13])[H:3],47.4884
